.SUBCKT LT1021-5 1 2 3 4
ITEMP 0 17 1
RNOISE 15 0 500k
IDUM1 0 15 0
EVEE 14 0 2 0 1
GG1 14 12 11 3 5
RG1 12 14 100k
CG1 12 14 1u
RREF 11 14 1
RTEMP 17 0 1 TC2=4E-4
VDUM1 16 0 1
ELDO 13 0 VALUE={V(1)-1.5}
M1 13 12 20 20 NOUT
M2 2 12 19 19 POUT
RILIM1 18 3 100
RILIM2 3 19 100
GPWR1 1 0 18 3 0.01
RDUM1 1 0 1MEG
ITYP 1 2 737uA
RTRIM 114 4 102k
DOUT1 20 18 DIN
DVL1 21 12 DVLIM
DVL2 21 14 DVLIM
GIN 0 11 VALUE={5+1E-4*V(17,16)-6.25E-4*V(18,3)+3.75E-3*V(3,19)+2.5E-5*V(1,2)+V(15,0)+7.7E-2*V(4,114)}
ETRIM 114 0 VALUE={V(2)+V(115)+3.46}
DTRIM 115 0 DIN
IDUM 4 0 0
ITRIM 0 115 1E-3
.MODEL DVLIM D(BV=15 RS=0 KF=0)
.MODEL DIN D(IS=1E-12 RS=0 KF=0)
.MODEL NOUT NMOS(KP=5 VTO=-10m)
.MODEL POUT PMOS(KP=5 VTO=10m)
.ENDS LT1021-5